US08017792B2
2.6 M n-butylithium hexane solution (0.8 mL) was added to a mixture of 1-bromo-4-(4-tetrahydropyranyloxy)benzene (0.545 g, 2.12 mmol) and tetrahydrofuran (6 mL) at −78° C. After stirred for 1.5 hours, a tetrahydrofuran (8 mL) solution of 2,3,4,6-tetra-O-benzyl-1-C-(3-formylphenyl)-5-thio-D-glucopyranose (0.70 g, 1.06 mmol) was added and further stirred for three hours, and the reaction mixture was warmed to room temperature. After the reaction mixture was added with a saturated ammonium chloride aqueous solution and extracted with ethyl acetate, the organic phase was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 2,3,4,6-tetra-O-benzyl-1-C-[3-[(4-(4-tetrahydropyranyloxy)phenyl)(hydroxy)methyl]phenyl]-5-thio-D-glucopyranose (0.67 g, 76%).

reactant | hexane | 2.6 M, 0.8 mL | CCCCCC | C6H14
reactant | 1-bromo-4-(4-tetrahydropyranyloxy)benzene | 2.12 mmol, 0.545 g | BrC1=CC=C(C=C1)OC1CCOCC1 | C11H13BrO2
reactant | 2,3,4,6-tetra-O-benzyl-1-C-(3-formylphenyl)-5-thio-D-glucopyranose | 1.06 mmol, 0.70 g | C(C1=CC=CC=C1)O[C@H]1C(O)(S[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC=C1)C=O | C41H40O6S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 2,3,4,6-tetra-O-benzyl-1-C-[3-[(4-(4-tetrahydropyranyloxy)phenyl)(hydroxy)methyl]phenyl]-5-thio-D-glucopyranose | 0.67 g, 76% | C(C1=CC=CC=C1)O[C@H]1C(O)(S[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC=C1)C(O)C1=CC=C(C=C1)OC1CCOCC1 | C52H54O8S
